US04235776
A solution was prepared by adding 2.59 g. of dl-6-acetamido-1,4-di(carbomethoxy)-5,6,7,8-tetrahydrobenzo[d]pyridazine to 100 ml. of glacial acetic acid. 5 g. of zinc dust were added and the resulting mixture stirred at ambient temperature for about 1 day. An additional 5 g. of zinc dust were added after 6 hours. The reaction mixture was then filtered to remove unreacted zinc dust and the resulting filtrate poured over ice. The filtrate was made basic with 14 N aqueous ammonium hydroxide and the alkaline mixture extracted several times with a chloroform-isopropanol solvent combination. The organic extracts were separated and combined, and the combined extracts washed with saturated aqueous sodium chloride and then dried. Evaporation of the solvent therefrom yielded dl-5-acetamido-1,3-di(carbomethoxy)-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole formed in the above reaction; yield=1.83 g. Recrystallization from methanol yielded crystalline material melting at 231°-232° C.

reactant | dl-6 acetamido-1,4-di(carbomethoxy)-5,6,7,8-tetrahydrobenzo[d]pyridazine | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(C)(=O)NC1CCCC=2C(=NN=C(C21)C(=O)OC)C(=O)OC
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | dl-5 acetamido-1,3-di(carbomethoxy)-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)(=O)NN1C(=C2C(=C1C(=O)OC)CCCC2)C(=O)OC | InChI=1S/C18H34N4O2.C14H18N2O5/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-8(17)15-16-11(13(18)20-2)9-6-4-5-7-10(9)12(16)14(19)21-3/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;4-7H2,1-3H3,(H,15,17)
